US07053212B2
Step B: N-(4-Hydroxy-benzyl)-4-methoxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide hydrochloride salt
4-Methoxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide (1.58 g, 2.79 mmol) was suspended in 3:1 ethanol:1N HCl (30 mL) and the solution was stirred at room temperature for 24 hr. The reaction mixture was quenched with sodium bicarbonate solution and the aqueous solution was washed with methylene chloride. The organic layer was dried (sodium sulfate), filtered, and concentrated to a white solid. The crude material was purified via Biotage® (A Dynax Corp., Charlottesville, Va.) chromatography using 10% methanol/methylene chloride as the eluant. The purified material was suspended in methanol (15 mL) and 4.0M HCl in dioxane (1.5 equiv.) was added. The mixture was stirred at room temperature and was concentrated to dryness to yield the title compound as the HCl salt. MS 483.1 (M+1)+

reactant | 4-Methoxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 2.79 mmol, 1.58 g | COC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C31H38N2O6S
reactant | HCl | 1N, 30 mL | Cl | ClH
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 1.5 equiv. | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | N-(4-Hydroxy-benzyl)-4-methoxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide hydrochloride salt | Cl.OC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OCCN2CCCC2)C=C1 | InChI=1S/C26H30N2O5S.ClH/c1-32-24-12-14-26(15-13-24)34(30,31)28(20-21-4-8-23(29)9-5-21)22-6-10-25(11-7-22)33-19-18-27-16-2-3-17-27;/h4-15,29H,2-3,16-20H2,1H3;1H
